US06743638B1
13-HPODE, which is a lipid hydroperoxide was produced by the peroxidation of linoleic acid by soybean lipoxygenase-1, in 100 mM di-sodium tetraborate buffer at pH 9.4. After purification by HPLC, the absorption spectrum of 13-HPODE (80 μM) was obtained (FIG. 31). This shows a peak at 234 nm where the conjugated diene absorbs.

reactant | 13-HPODE | CCCCC[C@@H](/C=C/C=C\CCCCCCCC(=O)O)OO | C18H32O4
solvent | di-sodium tetraborate | 100 mM | B([O-])([O-])O.B(O)(O)O.B(O)(O)O.B(O)(O)O.[Na+].[Na+]
product | linoleic acid | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)O | C18H32O2
